US04147863
To 1.3 g of benzhydryl 7-phenoxyacetamido-3-(1-methyl-1H-tetrazol-5-yl)vinyl-3-cephem-4-carboxylate-1-oxide in 25 ml of N,N-dimethylformamide were added with stirring under cooling with a freezing mixture 2.0 g of potassium iodide and 0.7 ml of acetyl chloride, and the mixture was stirred for 5 minutes. The mixture was then stirred for another 90 minutes at room temperature and poured into ice-water. The separating oil was extracted with ethyl acetate. The extract was washed with an aqueous potassium metabisulfite solution, water, a dilute aqueous sodium hydrogencarbonate solution and water successively and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to leave a residue. The obtained residue was developed through silica gel column with a mixture of benzene and ethyl acetate (1:1) to give 1.1 g of benzhydryl 7-phenoxyacetamido-3-(1-methyl-1H-tetrazol-5-yl)vinyl-3-cephem-4-carboxylate.

reactant | benzhydryl 7-phenoxyacetamido-3-(1-methyl-1H-tetrazol-5-yl)vinyl-3-cephem-4-carboxylate-1-oxide | 1.3 g | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)C=CC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H28N6O6S
reactant | potassium iodide | 2.0 g | [I-].[K+]
reactant | acetyl chloride | 0.7 ml | C(C)(=O)Cl | C2H3ClO
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-phenoxyacetamido-3-(1-methyl-1H-tetrazol-5-yl)vinyl-3-cephem-4-carboxylate | 1.1 g | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=CC2=NN=NN2C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H28N6O5S
